US06436489B1
2-Amino-3,4-difluorothiophenol [131105-92-5] is reacted analogously to Reference 1 with 4-hexylbenzaldehyde (commercially available, [49763-69-1]) to give 4,5-difluoro-2-(4-hexylphenyl)benzothiazoline, which is converted into 4,5-difluoro-2-(4-hexylphenyl)benzothiazole using barium permanganate by the method described in the cited literature. a-Lithiation (by means of lithium diisopropylamide analogously to J. Chem. Soc. Perkin Trans. II 1989, 2048) and quenching with hexyl bromide gives the target compound, which can be purified by chromatography and by recrystallization from acetonitrile.

reactant | 2-Amino-3,4-difluorothiophenol | NC1=C(C=CC(=C1F)F)S | C6H5F2NS
reactant | 4-hexylbenzaldehyde | C(CCCCC)C1=CC=C(C=O)C=C1 | C13H18O
product | 4,5-difluoro-2-(4-hexylphenyl)benzothiazoline | FC1=C(C=CC2=C1N=C(S2)C2=CC=C(C=C2)CCCCCC)F | C19H19F2NS
